US07153875B2
A solution of toluene (10 mL), piperidine (10 μL), acetic acid (10 μL), 4-[3-(2-methoxyphenyl)-4,5-methylenedioxyphenyl]benzaldehyde (0.164 g, 0.493 mmol) and 2,4-thiazolidinedione (0.0578 g, 0.493 mmol) was heated at reflux overnight under an argon atmosphere. The reaction mixture was cooled to room temperature, and the resulting crystalline compound was filtered, washed with ethanol. The yellow solid was dried under high vacuum to afford 0.125 g (59%) of 4-[3-(2-methoxyphenyl)-4,5-methylenedioxyphenyl]-benzylidene-2,4-thiazolidinedione, mp 227–228° C. (dec.). 1H NMR (300 MHz; DMSO-d6): 3.77 (s, 3H), 6.05 (s, 2H), 7.12 (t, J=7.5 Hz, 1H), 7.12 (d, J=8.7 Hz, 1H), 7.23 (s, 1H), 7.30 (s, 1H), 7.33–7.43 (m, 2H), 7.63 (d, J=7.8 Hz, 2H), 7.80 (d, J=7.8 Hz, 2H), 7.81 (s, 1H), 12.5–12.7 (brs, 1H). 13C NMR (75 MHz; DMSO-d6): 56.3, 56.4, 101.9, 106.6, 112.4, 120.8, 121.0, 123.0, 123.6, 124.7, 127.8, 130.2, 131.3, 131.4, 132.0, 132.2, 133.1, 142.2, 145.9, 148.7, 157.1, 168.0, 168.4.

reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | piperidine | 10 μL | N1CCCCC1 | C5H11N
reactant | 4-[3-(2-methoxyphenyl)-4,5-methylenedioxyphenyl]benzaldehyde | 0.493 mmol, 0.164 g | COC1=C(C=CC=C1)C=1C=C(C=C2C1OCO2)C2=CC=C(C=O)C=C2 | C21H16O4
reactant | 2,4-thiazolidinedione | 0.493 mmol, 0.0578 g | S1C(NC(C1)=O)=O | C3H3NO2S
solvent | acetic acid | 10 μL | C(C)(=O)O | C2H4O2
product | 4-[3-(2-methoxyphenyl)-4,5-methylenedioxyphenyl]-benzylidene-2,4-thiazolidinedione | 0.125 g, 59% | COC1=C(C=CC=C1)C=1C=C(C=C2C1OCO2)C2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C24H17NO5S
